US09107916B2
A. 2-{5-[(4-cyclopropylbenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4-cyclopropylphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 0.61-0.65 (2H, m), 0.89-0.94 (2H, m), 1.91-1.84 (1H, m), 5.12 (2H, s), 5.67 (1H, d, J=1.6 Hz), 7.01-7.24 (4H, m), 7.32-7.33 (1H, m), 7.50 (1H, d, J=1.2 Hz), 7.95 (1H, s), 8.63 (1H, d, J=4.8 Hz). [M+H] Calc'd for C19H16N4O, 317. Found, 317.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4-cyclopropylphenyl)methanol | C1(CC1)C1=CC=C(C=C1)CO | C10H12O
product | 2-{5-[(4-cyclopropylbenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile | C1(CC1)C1=CC=C(COC2=CC=NN2C2=NC=CC(=C2)C#N)C=C1 | C19H16N4O
